US04120690
Preparation of 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-(3-methylureido)thiazole
A reaction mixture comprising 3.0 g (0.01 mole) of 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-aminothiazole, 50 ml of pyridine and 0.8 g (0.014 mole) of methyl isocyanate was heated at 35°-37° for four hours. The reaction solution was allowed to stand over the weekend at ambient temperature. Most of the pyridine was removed by employing a rotary evaporator. The residue was mixed with hexane and the crude solid was collected. The filter cake was well washed with ethyl acetate. There was obtained 2.5 g of product, m.p. 190° (dec.). N.M.R. (dimethyl-d6 sulfoxide) ∂ 1.4 [C(CH3)3 ], 2.6 (CH3 doublet), 3.7 (CH2), 6.7 (hetero-aromatic).

reactant | 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-aminothiazole | 0.01 mole, 3.0 g | C(C)(C)(C)C1=NN=C(S1)NC(=O)CC=1N=C(SC1)N | C11H15N5OS2
reactant | methyl isocyanate | 0.014 mole, 0.8 g | CN=C=O | C2H3NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(5-tert-butyl-1,3,4-thiadiazol-2-ylcarbamoylmethyl)-2-(3-methylureido)thiazole | 2.5 g | C(C)(C)(C)C1=NN=C(S1)NC(=O)CC=1N=C(SC1)NC(=O)NC | C13H18N6O2S2
